US09029370B2
(S)-tert-butyl 2-(4-(1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate (102 mg, 0.2 mmol) was dissolved in dioxane (0.75 ml) and a solution of HCl in dioxane (4M, 0.75 ml, 3 mmol) was added. The reaction mixture was stirred for 90 min at 60° C. After cooling ether was added, the solid was filtered off, washed with ether and dried in vacuo at 60° C. to afford (S)-1-(3-(difluoromethoxy)phenyl)-N-(2-fluoro-4-(morpholin-2-yl)phenyl)-1H-pyrazole-4-carboxamide hydrochloride (84 mg, 91%) as a white solid. MS (ISP): 433.2 ([M+H]+).

reactant | (S)-tert-butyl 2-(4-(1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate | 0.2 mmol, 102 mg | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)NC1=C(C=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F)F | C26H27F3N4O5
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 0.75 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mmol, 4M, 0.75 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(3-(difluoromethoxy)phenyl)-N-(2-fluoro-4-(morpholin-2-yl)phenyl)-1H-pyrazole-4-carboxamide hydrochloride | 84 mg, 91% | Cl.FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)NC1=C(C=C(C=C1)[C@H]1CNCCO1)F)F | InChI=1S/C21H19F3N4O3.ClH/c22-17-8-13(19-11-25-6-7-30-19)4-5-18(17)27-20(29)14-10-26-28(12-14)15-2-1-3-16(9-15)31-21(23)24;/h1-5,8-10,12,19,21,25H,6-7,11H2,(H,27,29);1H/t19-;/m1./s1
